### PR TITLE
[Merged by Bors] - feat(RingTheory/StandardSmooth): pre-requisites for calculating the naive cotangent complex of a submersive presentation

### PR DESCRIPTION
**Pull request by chrisflav**
Preparations for #19748

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Dimension/Free.lean [hunk 1]
```diff
@@ -165,6 +165,11 @@ variable {M M'}
 
 namespace Module
 
+/-- A free module of rank zero is trivial. -/
+lemma subsingleton_of_rank_zero (h : Module.rank R M = 0) : Subsingleton M := by
+  rw [← Basis.mk_eq_rank'' (Module.Free.chooseBasis R M), Cardinal.mk_eq_zero_iff] at h
+  exact (Module.Free.repr R M).subsingleton
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Dimension/Free.lean:171]: This should be added near `rank_zero_iff` instead.

File: Mathlib/LinearAlgebra/Basis/Exact.lean [hunk 2]
```diff
@@ -0,0 +1,92 @@
...
+/-- Let `0 → K → M → P → 0` be an exact sequence of `R`-modules, let `s : M → K` be a
+retraction of `f` and `v` be a basis of `M` indexed by `κ ⊕ σ`. Then
+if `s vᵢ = 0` for `i : κ` and `(s vⱼ)ⱼ` is linear independent for `j : σ`, then
+the images of `vᵢ` for `i : κ` form a basis of `P`.
+
+For convenience this is stated not for an arbitrary type `ι` with two maps `κ → ι` and `σ → ι`. -/
+noncomputable def Basis.ofSplitExact (hg : Function.Surjective g) (v : Basis ι R M)
+    (hainj : Function.Injective a) (hsa : ∀ i, s (v (a i)) = 0)
+    (hlib : LinearIndependent R (s ∘ v ∘ b))
+    (hab : Set.range (v ∘ a) ∪ Set.range (v ∘ b) = Set.range v) :
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Basis/Exact.lean:89]: I feel like `Codisjoint (Set.range a) (Set.range b)` will be easier to prove rather than `hab`.

File: Mathlib/LinearAlgebra/Basis/Exact.lean [hunk 3]
```diff
@@ -0,0 +1,92 @@
...
+    ⊤ ≤ Submodule.span R (Set.range <| g ∘ v ∘ a) := by
+  apply top_le_span_of_aux hs hfg (Sum.elim (v ∘ a) (v ∘ b)) hg hsa hlib
+  rwa [Set.Sum.elim_range, hab]
+
+/-- Let `0 → K → M → P → 0` be an exact sequence of `R`-modules, let `s : M → K` be a
+retraction of `f` and `v` be a basis of `M` indexed by `κ ⊕ σ`. Then
+if `s vᵢ = 0` for `i : κ` and `(s vⱼ)ⱼ` is linear independent for `j : σ`, then
+the images of `vᵢ` for `i : κ` form a basis of `P`.
+
+For convenience this is stated not for an arbitrary type `ι` with two maps `κ → ι` and `σ → ι`. -/
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Basis/Exact.lean:85]:
```suggestion
For convenience this is stated for an arbitrary type `ι` with two maps `κ → ι` and `σ → ι`. -/
```

File: Mathlib/LinearAlgebra/Basis/Exact.lean [hunk 4]
```diff
@@ -0,0 +1,92 @@
...
+Copyright (c) 2024 Christian Merten. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Christian Merten
+-/
+import Mathlib.Algebra.Exact
+import Mathlib.Algebra.Module.Submodule.Pointwise
+import Mathlib.LinearAlgebra.Basis.Basic
+
+/-!
+# Basis from a splitting exact sequence
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Basis/Exact.lean:11]:
```suggestion
# Basis from a split exact sequence
```

File: Mathlib/LinearAlgebra/Basis/Exact.lean [hunk 5]
```diff
@@ -0,0 +1,92 @@
...
+
+lemma Submodule.top_le_span_of_exact_of_retraction (hg : Function.Surjective g)
+    (hsa : ∀ i, s (v (a i)) = 0) (hlib : LinearIndependent R (s ∘ v ∘ b))
+    (hab : Set.range (v ∘ a) ∪ Set.range (v ∘ b) = Set.range v)
+    (hsp : ⊤ ≤ Submodule.span R (Set.range v)) :
+    ⊤ ≤ Submodule.span R (Set.range <| g ∘ v ∘ a) := by
+  apply top_le_span_of_aux hs hfg (Sum.elim (v ∘ a) (v ∘ b)) hg hsa hlib
+  rwa [Set.Sum.elim_range, hab]
+
+/-- Let `0 → K → M → P → 0` be an exact sequence of `R`-modules, let `s : M → K` be a
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Basis/Exact.lean:80]:
```suggestion
/-- Let `0 → K → M → P → 0` be a split exact sequence of `R`-modules, let `s : M → K` be a
```

File: Mathlib/LinearAlgebra/Basis/Exact.lean [hunk 6]
```diff
@@ -0,0 +1,92 @@
...
+Authors: Christian Merten
+-/
+import Mathlib.Algebra.Exact
+import Mathlib.Algebra.Module.Submodule.Pointwise
+import Mathlib.LinearAlgebra.Basis.Basic
+
+/-!
+# Basis from a splitting exact sequence
+
+Let `0 → K → M → P → 0` be an exact sequence of `R`-modules, let `s : M → K` be a
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Basis/Exact.lean:13]:
```suggestion
Let `0 → K → M → P → 0` be a split exact sequence of `R`-modules, let `s : M → K` be a
```

File: Mathlib/RingTheory/Smooth/StandardSmooth.lean [hunk 7]
```diff
@@ -261,10 +280,11 @@ the lower-right block has determinant jacobian of `P`.
 
 -/
 
-variable [Fintype (Q.comp P).rels]
+variable [DecidableEq (Q.comp P).rels] [Fintype (Q.comp P).rels]
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmooth.lean:283]: Why is this necessary now?

File: Mathlib/RingTheory/Smooth/StandardSmooth.lean [hunk 8]
```diff
@@ -297,9 +317,9 @@ end Q
 
 section P
 
-variable [Fintype P.rels]
+variable [Fintype P.rels] [DecidableEq P.rels]
 
-private lemma jacobiMatrix_comp_inr_inr (i j : P.rels) :
+private lemma jacobiMatrix_comp_inr_inr  (i j : P.rels) :
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmooth.lean:322]:
```suggestion
private lemma jacobiMatrix_comp_inr_inr (i j : P.rels) :
```

File: Mathlib/LinearAlgebra/Dimension/Free.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/LinearAlgebra/Dimension/Free.lean]: I thought that lemma would imply this one and I was wrong. I think the original place is better. Sorry for the back and forth.

**Review by erdOne — APPROVED** [review]
Aside from the comment this looks good to me.

For the record I have tried to improve the defeq of the basis via `Finsupp.lmapDomain` etc but couldn't make it work. It is probably not that important anyways.

**Comment by erdOne** [comment]
Thanks!
maintainer merge
